US07241792B2
Preparation of Intermediate (±)-6-methylene-spiro[bicyclo[3.1.0]hexane-2,2′-[1,3]dioxolane]
To a solution of (±)-6-chloro-6-methyl-spiro[bicyclo[3.1.0]hexane-2,2′-[1,3]dioxolane] (2.50 g, 13.25 mmol) in DMSO (40 mL) was added a solution of KOtBu (15.9 mL of 1.0M in THF). The solution heated at 60° C. overnight. After cooling down the reaction mixture to rt, the product was extracted into n-Hexane. Solvent was removed under reduced pressure. SiO2 column chromatography (14–25% EtOAc/n-hexane) gave the title compound as an oil. 1H NMR (400 MHz, CDCl3): δ 5.55 (s, 1H), 5.42 (t, 1H, J=1.0 Hz), 4.08–3.91 (m, 4H), 2.07–1.97 (m, 2H), 1.90–1.84 (m, 2H), 1.65–1.54 (m, 2H).

reactant | (±)-6-chloro-6-methyl-spiro[bicyclo[3.1.0]hexane-2,2′-[1,3]dioxolane] | 13.25 mmol, 2.50 g | ClC1(C2CCC3(OCCO3)C12)C | C9H13ClO2
reactant | KOtBu | 1.0M, 15.9 mL | CC(C)(C)[O-].[K+]
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | (±)-6-methylene-spiro[bicyclo[3.1.0]hexane-2,2′-[1,3]dioxolane] | C=C1C2CCC3(OCCO3)C12 | C9H12O2
